US07342115B2
A mixture of 5-(1-chloro-1-propyl-butyl)-2-(2,6-diethyl-phenyl)-4-ethoxy-pyridine (prepared using a synthetic method similar to that given in Example 10) (20 mg, 0.052 mmol) and morpholine (0.5 mL) is heated to 80° C. for 2 hours. Water (1 mL) is added and the aqueous solution is extracted with ethyl acetate (2×2 mL). The combined organic layers are dried and concentrated in vacuo. The crude product is purified with PTLC (hexanes/ethyl acetate 4:1) to give 4-{1-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-1-propyl-butyl}-morpholine. 1H NMR: (CDCl3) 8.66 (s, 1H), 7.26 (m, 1H), 7.12 (d, 2H), 6.71 (S, 1H), 4.02 (q, 2H), 3.70 (m, 4H), 2.64 (m, 4H), 2.34 (m, 4H), 1.88 (m, 4H), 1.43 (t, 3H), 1.07 (m, 4H), 1.02 (t, 6H), 0.84 (t, 6H).

reactant | 5-(1-chloro-1-propyl-butyl)-2-(2,6-diethyl-phenyl)-4-ethoxy-pyridine | ClC(CCC)(CCC)C=1C(=CC(=NC1)C1=C(C=CC=C1CC)CC)OCC | C24H34ClNO
reactant | morpholine | 0.5 mL | N1CCOCC1 | C4H9NO
solvent | Water | 1 mL | O | H2O
product | 4-{1-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-1-propyl-butyl}-morpholine | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C(CCC)(CCC)N1CCOCC1)OCC | C28H42N2O2
